US08049016B2
Synthesis of 4-methyl-2-(2-oxo-3-((6-(trifluoromethyl)pyridine-3-yl)methyl)imidazolidin-1-yl)thiazole-5-carboxamide
Following the procedure as described in Example 1, making variations as required to replace 2-(1-(4-fluorobenzyl)-5-oxo-1H-1,2,4-triazol-4(5H)-yl)-4-methyl-thiazole-5-carboxylic acid with 4-methyl-2-(2-oxo-3-((6-(trifluoromethyl)pyridin-3-yl)methyl)imidazolidin-1-yl)thiazole-5-carboxylic acid, the title compound was obtained as a colorless solid: mp 225-228° C.; 1H NMR (300 MHz, DMSO-d6) δ 8.75 (br, 2H), 8.04 (d, J=8.1 Hz, 1H), 7.92-7.89 (m, 2H), 4.61 (s, 2H), 4.06-3.99 (m, 2H), 3.58-3.53 (m, 2H), 2.50 (s, 3H); MS (ES+) m/z 386.2 (M+1).

reactant | 2-(1-(4-fluorobenzyl)-5-oxo-1H-1,2,4-triazol-4(5H)-yl)-4-methyl-thiazole-5-carboxylic acid | FC1=CC=C(CN2N=CN(C2=O)C=2SC(=C(N2)C)C(=O)O)C=C1 | C14H11FN4O3S
reactant | 4-methyl-2-(2-oxo-3-((6-(trifluoromethyl)pyridin-3-yl)methyl)imidazolidin-1-yl)thiazole-5-carboxylic acid | CC=1N=C(SC1C(=O)O)N1C(N(CC1)CC=1C=NC(=CC1)C(F)(F)F)=O | C15H13F3N4O3S
product | 4-methyl-2-(2-oxo-3-((6-(trifluoromethyl)pyridine-3-yl)methyl)imidazolidin-1-yl)thiazole-5-carboxamide | CC=1N=C(SC1C(=O)N)N1C(N(CC1)CC=1C=NC(=CC1)C(F)(F)F)=O | C15H14F3N5O2S
